US06593326B1
4-[2-Hydroxy-2-methyl-3-(isopropylamino)propoxy]nitrobenzene
A mixture of 4-nitrophenol (1.0 g, 7.1 mmol), potassium carbonate (1.30 g, 9.4 mmol) and 2-chloromethyl-2-methyloxirane (0.84 g, 7.9 mmol) in DMF (50 ml) was stirred for 12 hours and then heated at 80° C. for 12 hours. Insoluble material was removed by filtration and washed with DMF (10 ml). The combined filtrate and washings were concentrated and the residue was dissolved in methanol (20 ml). Isopropylamine (6.13 ml, 71 mmol) was added and the mixture was stirred for 12 hours. Volatile material was removed by evaporation and the residue was purified by bond elute chromatography, eluting with 0-5% methanol in DCM, to give the product as a yellow solid (0.5 g, 26%). MS (MH+): 269.

reactant | 4-nitrophenol | 7.1 mmol, 1.0 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | potassium carbonate | 9.4 mmol, 1.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloromethyl-2-methyloxirane | 7.9 mmol, 0.84 g | ClCC1(OC1)C | C4H7ClO
reactant | Isopropylamine | 71 mmol, 6.13 ml | C(C)(C)N | C3H9N
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-[2-Hydroxy-2-methyl-3-(isopropylamino)propoxy]nitrobenzene | 0.5 g, 26% | OC(COC1=CC=C(C=C1)[N+](=O)[O-])(CNC(C)C)C | C13H20N2O4
